US07288537B2
Polymer supported triphenylphosphine (125 g, 370 mmol) is suspended in tetrahydrofuran: acetonitrile 9:1 (1000 ml) and treated with Iodine (95.2 g, 370 mmol) followed by stirring for 15 minutes. Imidazole (25.5 g, 370 mmol) is added followed by a solution of 3-[(4-Chloro-phenyl)-hydroxy-methyl]-azetidine-1-carboxylic acid tert-butyl ester (44.7 g, 150 mmol) in tetrahydrofuran (150 ml) and the reaction mixture stirred at ambient temperature for 20 hours. The reaction mixture is filtered through celite™ filter material and the filtrate evaporated. The residue is taken up in chloroform and washed with sodium thiosulphate solution, water and brine. The solution is dried over magnesium sulphate and evaporated to provide 3-[(4-Chlorophenyl)-iodo-methyl]-azetidine-1-carboxylic acid tert-butyl ester. 1H NMR 400 MHz, CDCl3, δ 1.35 (9H), 3.21 (1H), 3.37 (1H), 3.60 (2H), 4.05 (1H), 5.12 (1H), 7.20 (4H).

reactant | triphenylphosphine | 370 mmol, 125 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Iodine | 370 mmol, 95.2 g | II | I2
reactant | Imidazole | 370 mmol, 25.5 g | N1C=NC=C1 | C3H4N2
reactant | 3-[(4-Chloro-phenyl)-hydroxy-methyl]-azetidine-1-carboxylic acid tert-butyl ester | 150 mmol, 44.7 g | C(C)(C)(C)OC(=O)N1CC(C1)C(O)C1=CC=C(C=C1)Cl | C15H20ClNO3
solvent | tetrahydrofuran acetonitrile | 1000 ml | O1CCCC1.C(C)#N
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 3-[(4-Chlorophenyl)-iodo-methyl]-azetidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(C1)C(I)C1=CC=C(C=C1)Cl | C15H19ClINO2
